US07592477B2
Step b) Formation of N-{[4-(dodecyloxy)-1-naphthyl]methyl}-N-[4-(trifluoromethyl)-benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(dodecyloxy)-1-naphthaldehyde and 4-(trifluoromethyl)benzylamine gave the title compound as a colorless oil (66%). 1H NMR (CDCl3, 300 MHz) δ 8.20 (d, J=7.9 Hz, 1H), 7.91 (d, J=7.9 Hz, 1H), 7.76-7.41 (m, 6H), 7.32 (d, J=7.5 Hz, 1H), 6.72 (d, J=7.5 Hz, 1H), 4.19-4.11 (m, 4H), 3.63 (s, 2H), 1.96-1.84 (m, 2H), 1.63-1.47 (m, 2H), 1.45-1.20 (m, 16H), 0.87 (t, J=6.8 Hz, 3H). HPLC (Condition A), Rt: 5.41 min (HPLC purity: 100%).

reactant | 4-(dodecyloxy)-1-naphthaldehyde | C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)C=O | C23H32O2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | N-{[4-(dodecyloxy)-1-naphthyl]methyl}-N-[4-(trifluoromethyl)-benzyl]amine | 66% | C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)CNCC1=CC=C(C=C1)C(F)(F)F | C31H40F3NO
